US07405232B2
c) tert-butyl {3-[3-(3,5-difluoro-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propyl}-carbamate
3.74 g (19 mmol) 3-(3,5-difluoro-phenyl)-5-methyl-[1,2,4]triazole in 25 mL DMPU are reacted with 0.92 g (23 mmol, 60%) sodium hydride, 6.37 g (29 mmol) tert-butyl(3-chloro-1,1-dimethyl-propyl)-carbamate and 1.27 g (3.5 mmol) tetrabutylammonium iodide analogously to Example 1c). Oil.

reactant | 3-(3,5-difluoro-phenyl)-5-methyl-[1,2,4]triazole | 19 mmol, 3.74 g | FC=1C=C(C=C(C1)F)C1=NNC(=N1)C | C9H7F2N3
reactant | sodium hydride | 23 mmol, 0.92 g | [H-].[Na+]
reactant | tert-butyl(3-chloro-1,1-dimethyl-propyl)-carbamate | 29 mmol, 6.37 g | C(C)(C)(C)OC(NC(CCCl)(C)C)=O | C10H20ClNO2
solvent | DMPU | 25 mL | CN1CCCN(C1=O)C | C6H12N2O
catalyst | tetrabutylammonium iodide | 3.5 mmol, 1.27 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-butyl {3-[3-(3,5-difluoro-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propyl}-carbamate | FC=1C=C(C=C(C1)F)C1=NN(C(=N1)C)CCC(C)(C)NC(OC(C)(C)C)=O | C19H26F2N4O2
